US05411980
Step B: 2,4-Bis[[2'-(5-tetrazolyl)biphenyl-4-yl]methyl]-5-n-butyl-2,4-dihydro-3H-1,2,4-triazol-3-one
Deprotection of 2,4-bis[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-5-n-butyl-2,4-dihydro-3H-1,2,4-triazol-3-one in 50% aqueous acetic acid was accomplished by the procedure of Example 3, Step B. After work-up, the residue was flash chromatographed over silica gel (15 mL for 0.091 mmole, gradient elution using 2-30% MeOH/CH2Cl2) to give the desired material as a solid in 91% yield, homogeneous by TLC in 10% MeOH/CH2Cl2, mass spectrum (FAB) m/e 610 (M+1)+, mp 150°-151° C.

reactant | 2,4-bis[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-5-n-butyl-2,4-dihydro-3H-1,2,4-triazol-3-one | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN1N=C(N(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCCC | C72H59N11O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,4-Bis[[2'-(5-tetrazolyl)biphenyl-4-yl]methyl]-5-n-butyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 91% yield | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN1N=C(N(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCCC | C34H31N11O
